US04415571
5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are dissolved in 150 ml of absolute tetrahydrofuran by heating to 60° C., with stirring. The solution is allowed to cool to room temperature, 5.6 g (36.7 millimoles) of 2-methoxypropyl chloroformate are added and the mixture is then stirred for 14 hours under reflux. It is concentrated, water is added and the product is filtered off and recrystallized from dimethylformamide/water, giving 5.7 g (73% of theory) of 4,5-dihydro-6-[p-(2-methoxypropoxycarbonylamino)-phenyl]-5-methyl-3(2H)-pyridazinone as colorless crystals of melting point 173°-175° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methoxypropyl chloroformate | 36.7 millimoles, 5.6 g | ClC(=O)OCC(C)OC | C5H9ClO3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-6-[p-(2-methoxypropoxycarbonylamino)-phenyl]-5-methyl-3(2H)-pyridazinone | 5.7 g, 73% | COC(COC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)C | C16H21N3O4
